US05750524
Dissolved in 100 ml of methanol were 10.6 g (37.7 mmol) of 2-(benzyloxycarbonylaminomethyl)indane, and 1.3 g of 10% palladium-carbon were added to the solution. The mixture was stirred for 4 hours under a hydrogen atmosphere. After separating the catalyst by filtration, the solvent was distilled off to obtain 5.04 g of 2-(aminomethyl)indane. This compound was immediately dissolved in 150 ml of methylene chloride, and 100 ml of water and 6.2 g of potassium carbonate were added to the solution, followed by vigorous stirring of the resultant mixture. While chilling with ice water, 8.02 g (38.0 mmol) of 4-chlorobenzenesulfonyl chloride were added in small portions. Thereafter, the mixture was stirred for 30 minutes. After an organic layer separated was taken out and dried, the solvent was distilled out of the organic layer. The resultant crystalline residue was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain 9.82 g of 2-[(4-chlorophenyl)sulfonylaminomethyl]indane as a colorless needle crystal. Yield: 76%.

reactant | 2-(benzyloxycarbonylaminomethyl)indane | 37.7 mmol, 10.6 g | C(C1=CC=CC=C1)OC(=O)NCC1CC2=CC=CC=C2C1 | C18H19NO2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-carbon | 1.3 g | [C].[Pd]
product | 2-(aminomethyl)indane | 5.04 g | NCC1CC2=CC=CC=C2C1 | C10H13N
